US07244729B2
N-{3-[4-(3-Chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-2-dimethylamino-acetamide
2-Chloro-N-{3-[4-(3-chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-acetamide (120 mg, 0.222 mmol) in 2 ml dioxane and 0.145 ml (0.81 mmol) 5.6 N dimethylamine in ethanol (Fluka, Buchs, Switzerland) is stirred and heated to 100° C. for 4.5 h. The mixture is cooled and the solvent evaporated. The residue is shaken with THF (5 ml), dichloromethane (3 ml), methanol (2 ml) and saturated sodium bicarbonate (2 ml). The two clear layers are separated and the organic phase is treated with 1 g silica gel. The solution containing the silica gel is evaporated and the solid put on top of a flash chromatography column containing 33 g of silica gel. The column is eluted using a mixture of dichloromethane/methanol with gradually increasing concentrations of methanol starting with 100:2.5 and ending with 100:5 and then switching to dichloromethane/methanol/conc. ammonia starting with 100:5:0.25 and ending with 100:10:0.5. The title compound is obtained as colorless crystals; m.p. 272-273° C.; MS-ES+: (M+H)+=453.

reactant | 2-Chloro-N-{3-[4-(3-chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-acetamide | 0.222 mmol, 120 mg | ClCC(=O)NCC1=CC(=CC=C1)C1=CC2=C(N=CN=C2NC2=CC(=C(C=C2)F)Cl)N1 | C21H16Cl2FN5O
reactant | dimethylamine | 0.81 mmol, 5.6 N, 0.145 ml | CNC | C2H7N
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | N-{3-[4-(3-Chloro-4-fluoro-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzyl}-2-dimethylamino-acetamide | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(=C2)C=2C=C(CNC(CN(C)C)=O)C=CC2 | C23H22ClFN6O
